US06884868B1
Dimethylformamide (485 l), p-pentyloxyacetophenone (30.3 kg) and dimethyl terephthalate (45.6 kg) were charged in 2000-liter reactor and stirred. To this mixture was added potassium tert-butoxide (24.7 kg) in several portions and, after that, a reaction was carried out at the inner temperature of 20 to 25° C. for 3.5 hours. After completion of the reaction, methanol (1210 l) was added to the reaction solution at 20 to 30° C. and then 6N hydrochloric acid (49 l) at 5 to 15° C. The mixture was stirred at room temperature for 1 hour, and the resulting appeared crystals were filtered and washed with methanol (152 l) and then water (152 l). The crystals were dried overnight in vacuo to give 1-(4-methoxycarbonylphenyl)-3-(4-pentyloxyphenyl)propane-1,3-dione (49.6 kg).

reactant | p-pentyloxyacetophenone | 30.3 kg | C(CCCC)OC1=CC=C(C=C1)C(C)=O | C13H18O2
reactant | dimethyl terephthalate | 45.6 kg | C(C1=CC=C(C(=O)OC)C=C1)(=O)OC | C10H10O4
reactant | potassium tert-butoxide | 24.7 kg | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | 6N, 49 l | Cl | ClH
solvent | methanol | 1210 l | CO | CH4O
solvent | Dimethylformamide | 485 l | CN(C=O)C | C3H7NO
product | 1-(4-methoxycarbonylphenyl)-3-(4-pentyloxyphenyl)propane-1,3-dione | 49.6 kg | COC(=O)C1=CC=C(C=C1)C(CC(=O)C1=CC=C(C=C1)OCCCCC)=O | C22H24O5
